US07709466B2
600 mg 4-Iodo-3-methoxy-6-pyridin-4-yl-pyridazine, 974 mg 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole-2-boronic acid, 2.5 g cesium carbonate, and 78 mg [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) are dissolved in a mixture of 18 mL dioxane and 5.4 mL water. Argon is bubbled through the solution for 5 minutes. The mixtures is heated to reflux for 2 hours. After diluting with EtOAc, the organic phase is ished with water and brine, dried with MgSO4 and concentrated in vacuo. The crude product is dissolved in 30 mL THF. After addition of 1.51 g tetrabutylammonium fluoride trihydrate, the red solution is stirred for 2 hours. The reaction mixture is diluted with EtOAc, ished with saturated aqueous ammonium chloride, water, and brine, dried with MgSO4 and concentrated in vacuo. Purification by HPLC afforded 760 mg (95%) 6-hydroxy-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester.

reactant | 4-Iodo-3-methoxy-6-pyridin-4-yl-pyridazine | 600 mg | IC1=C(N=NC(=C1)C1=CC=NC=C1)OC | C10H8IN3O
reactant | 1-(tert-butoxycarbonyl)-6-(tert-butyldimethylsiloxy)indole-2-boronic acid | 974 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)B(O)O | C19H30BNO5Si
reactant | cesium carbonate | 2.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | water | 5.4 mL | O | H2O
product | 6-hydroxy-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | 760 mg, 95% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C23H22N4O4
